US08084448B2
F. [3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenoxy]-acetic Acid 2-trimethylsilanylethyl Ester
To a solution of methyl N-(aminosulfonyl)-N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)glycinate in THF is added potassium t-butoxide (1.1 equivalent) in THF dropwise. The mixture is stirred at RT for 18 h. The solvent is removed under reduced pressure to afford the title compound which is used directly in the next step.

reactant | methyl N-(aminosulfonyl)-N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)glycinate | NS(=O)(=O)N(CC(=O)OC)C1=C(C=C(C=C1)OCC(OCC[Si](C)(C)C)=O)OCC1=CC=CC=C1 | C23H32N2O8SSi
reactant | potassium t-butoxide | 1.1 equivalent | CC(C)([O-])C.[K+]
solvent | THF | C1CCOC1 | C4H8O
product | [3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenoxy]-acetic Acid 2-trimethylsilanylethyl Ester | C[Si](CCOC(COC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1)=O)(C)C | C22H28N2O7SSi
